US06239151B1
A solution of 0.78 g of 2(R)-[3-benzamido-1(S)-(tert-butoxycarbonyl)propyl]-4-methylvaleric acid in 10 ml of dichloromethane was cooled to 0° C. under nitrogen and treated sequentially with 0.80 ml of N-ethylmorpholine, 0.437 g of hydroxybenzotriazole hydrate, and 0.50 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride. The mixture was stirred for 5 minutes at 0° C. and then 1.1 g of isobutyl hydrazine was added. Stirring was continued overnight at room temperature and then the solvent was evaporated. The residue was dissolved in ethyl acetate and washed with 5% aqueous sodium hydrogen carbonate, water, 2M aqueous hydrogen chloride, and saturated aqueous sodium chloride. Drying over anhydrous magnesium sulfate, filtration and evaporation of the solvent gave 0.763 g of 2(R)-[3-benzamido-1(S)-(tert-butoxycarbonyl)propyl]-2′-isobutyl-4-methylvalerohydrazide in the form of an off-white foam.

reactant | 2(R)-[3-benzamido-1(S)-(tert-butoxycarbonyl)propyl]-4-methylvaleric acid | 0.78 g | C(C1=CC=CC=C1)(=O)NCC[C@H](C(=O)OC(C)(C)C)[C@H](C(=O)O)CC(C)C | C21H31NO5
reactant | N-ethylmorpholine | 0.80 ml | C(C)N1CCOCC1 | C6H13NO
reactant | hydroxybenzotriazole hydrate | 0.437 g | O.OC1=CC=CC=2NN=NC21
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.50 g | Cl.C(C)N=C=NCCCN(C)C
reactant | isobutyl hydrazine | 1.1 g | C(C(C)C)NN | C4H12N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2(R)-[3-benzamido-1(S)-(tert-butoxycarbonyl)propyl]-2′-isobutyl-4-methylvalerohydrazide | 0.763 g | C(C1=CC=CC=C1)(=O)NCC[C@H](C(=O)OC(C)(C)C)[C@H](C(=O)NNCC(C)C)CC(C)C | C25H41N3O4
